US05114953
A mixture of 2 g (0.013 mol) of cis-1,2-cyclohexane-dicarboxylic anhydride in 15 mL of methanol was refluxed for 5 hr, then evaporated to dryness under reduced pressure to give 2.41 g (100% yield) of cis-2-methoxycarbonyl-cyclohexanecarboxylic acid. When this was substituted for 3 in Example 1, the identical process afforded the title compound, melting at 140°-144° C., in 36% yield; Rf (D)=0.53, 0.47.

reactant | cis-1,2-cyclohexane-dicarboxylic anhydride | 0.013 mol, 2 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | methanol | 15 mL | CO | CH4O
product | cis-2-methoxycarbonyl-cyclohexanecarboxylic acid | 2.41 g, 100% yield | COC(=O)[C@@H]1[C@@H](CCCC1)C(=O)O | C9H14O4
